US08614327B2
A solution of 1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidine (350 mg, 1.34 mmol) in methanol (2 mL) and Pd/C (30 mg, 0.3 mmol) were stirred for 16 h under H2. The reaction mixture was filtered and the solvent evaporated in vacuo to provide 4-(pyrrolidin-1-yl)-2-(trifluoromethyl)aniline (0.3 g, 97%). LC/MS: m/z 231.3 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ 6.84 (d, J=8.8 Hz, 1H), 6.72 (dd, J=8.8, 2.5 Hz, 1H), 6.53 (d, J=2.7 Hz, 1H), 4.74 (s, 2H), 3.21-3.11 (m, 4H), 2.00-1.93 (m, 4H).

reactant | 1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidine | 1.34 mmol, 350 mg | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCC1)C(F)(F)F | C11H11F3N2O2
solvent | methanol | 2 mL | CO | CH4O
catalyst | Pd/C | 0.3 mmol, 30 mg | [Pd] | Pd
product | 4-(pyrrolidin-1-yl)-2-(trifluoromethyl)aniline | 0.3 g, 97% | N1(CCCC1)C1=CC(=C(N)C=C1)C(F)(F)F | C11H13F3N2
